US05441955
5-fluoro-6-(3-methyl-4-tertbutyloxycarbonyl piperazinyl)isatin
To a solution of 5-fluoro-6-(3-methylpiperazinyl)isatin (0.585 g, 2 mmol) in 30 mL of dry THF was added dropwise di-t-butyldicarbonate (0.727 g, 3 mmol) in 5 mL of THF. The mixture was stirred for 2 h at room temperature and the crude mixture was concentrated under reduced pressure. Chromatography of the residue on silica gel using methanol:chloroform as eluent gave the title compound in 69% yield: mp 160° C. (dec); 1H NMR (300 MHz, CDCl3) δ 8.8 (br s, 1H), 7.3 (s, 1H), 6.4 (d, 1H), 4.35 (br s, 1H), 4.0 (d, 1H), 3.65 (t, 2H), 3.3 (dt, 1H), 3.25 (dt, 1H), 3.1 (t, 1H), 1.5 (s, 9H), 1.3 (s, 3H).

reactant | 5-fluoro-6-(3-methylpiperazinyl)isatin | 2 mmol, 0.585 g | FC=1C=C2C(C(NC2=CC1N1CC(NCC1)C)=O)=O | C13H14FN3O2
reactant | di-t-butyldicarbonate | 3 mmol, 0.727 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-fluoro-6-(3-methyl-4-tertbutyloxycarbonyl piperazinyl)isatin | 69% yield | FC=1C=C2C(C(NC2=CC1N1CC(N(CC1)C(=O)OC(C)(C)C)C)=O)=O | C18H22FN3O4
